datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CN(C)c1cc[n+]([O:21][H:20])cc1.O=C1Cc2c1ccc([O-:10])c2[N+](=O)[O-]>>CN(C)c1cc[n+]([O-:21])cc1.O=C1Cc2c1ccc([O:10][H:20])c2[N+](=O)[O-] 10=20;20,21=21",
"COc1nc2ncncc2[n-:10]1.Nc1nc[nH+]c2c1ncn2CCOCP(=O)(O)[O:21][H:20]>>COc1nc2ncncc2[n:10]1[H:20].Nc1nc[nH+]c2c1ncn2CCOCP(=O)(O)[O-:21] 10=20;20,21=21",
"C[Si](C)(CN)O[Si](C)(C)C[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>C[Si](C)(CN)O[Si](C)(C)C[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CN(C)c1ccc(/C=N/c2ncc3c(n2)[nH]c[n+:21]3[H:20])cc1.O=C(C[NH2:10])NCCc1c[nH]cn1>>CN(C)c1ccc(/C=N/c2ncc3c(n2)[nH]c[n:21]3)cc1.O=C(C[NH2+:10][H:20])NCCc1c[nH]cn1 10=20;20,21=21",
"O=C([O-])C1(C(=O)[O:21][H:20])CCCC1.O=C1O[C@@H]([C@H](O)CO)C([O-:10])=C1O>>O=C([O-])C1(C(=O)[O-:21])CCCC1.O=C1O[C@@H]([C@H](O)CO)C([O:10][H:20])=C1O 10=20;20,21=21",
"C[N+:21]1([H:20])CCCC1c1cccnc1.Cc1nc2ccccc2[n:10]c1[O-]>>C[N:21]1CCCC1c1cccnc1.Cc1nc2ccccc2[n+:10]([H:20])c1[O-] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C(CC[NH2:10])c1ccccc1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C(CC[NH2+:10][H:20])c1ccccc1 10=20;20,21=21",
"C/C(=C\c1cc(C(C)(C)C)c([O-:10])c(C(C)(C)C)c1)C(=O)[O-].CC1=[N+:21]([H:20])CCc2c1[nH]c1ccccc21>>C/C(=C\c1cc(C(C)(C)C)c([O:10][H:20])c(C(C)(C)C)c1)C(=O)[O-].CC1=[N:21]CCc2c1[nH]c1ccccc21 10=20;20,21=21",
"C=C(C)[C@@H]1CN(C(C)=O)[C@H](C(=O)OC)[C@@H]1CC(=O)[O-:10].COC1=C[N+:21]([H:20])=C(N)S1>>C=C(C)[C@@H]1CN(C(C)=O)[C@H](C(=O)OC)[C@@H]1CC(=O)[O:10][H:20].COC1=C[N:21]=C(N)S1 10=20;20,21=21",
"Brc1c[n+](CC[O:21][H:20])cc2ccccc12.S=C(c1cccc(Br)c1)[N-:10]c1ccc(Cl)c(Cl)c1>>Brc1c[n+](CC[O-:21])cc2ccccc12.S=C(c1cccc(Br)c1)[N:10](c1ccc(Cl)c(Cl)c1)[H:20] 10=20;20,21=21",
"C1COCCOCc2nc([n:21]([H:20])n2)COCCOCCO1.C=CC[NH2+]CCCCCCCCCCC(=O)[O-:10]>>C1COCCOCc2nc([n-:21]n2)COCCOCCO1.C=CC[NH2+]CCCCCCCCCCC(=O)[O:10][H:20] 10=20;20,21=21",
"CCN(CC)Cc1cc(OC)ccc1[O-:10].NCCC[NH2+:21][H:20]>>CCN(CC)Cc1cc(OC)ccc1[O:10][H:20].NCCC[NH2:21] 10=20;20,21=21",
"CC(C)(C)c1cc(/C=C/C(=O)[O-])cc(C(C)(C)C)c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)(C)c1cc(/C=C/C(=O)[O-])cc(C(C)(C)C)c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCCCCCCCC[NH:10]c1ccccc1.C[C@H](CCC(=O)[O:21][H:20])[C@H]1CC[C@H]2[C@@H]3[C@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3C[C@H](O)[C@]12C>>CCCCCCCCCC[NH+:10](c1ccccc1)[H:20].C[C@H](CCC(=O)[O-:21])[C@H]1CC[C@H]2[C@@H]3[C@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3C[C@H](O)[C@]12C 10=20;20,21=21",
"Fc1cccc([NH2:10])c1.O=C(C12CC3CC(CC(F)(C3)C1)C2)[O:21][H:20]>>Fc1cccc([NH2+:10][H:20])c1.O=C(C12CC3CC(CC(F)(C3)C1)C2)[O-:21] 10=20;20,21=21",
"C1CC[NH:10]CC1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C1CC[NH+:10]([H:20])CC1.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"Cc1cc([O-:10])ccc1[N+](C)(C)C.O=C(CI)[O:21][H:20]>>Cc1cc([O:10][H:20])ccc1[N+](C)(C)C.O=C(CI)[O-:21] 10=20;20,21=21",
"C1C[NH:10]1.[NH3+]c1ccccc1C(=O)N[NH2+:21][H:20]>>C1C[NH+:10]1[H:20].[NH3+]c1ccccc1C(=O)N[NH2:21] 10=20;20,21=21",
"Cc1ccccc1S(=O)[O-:10].O=C(C1Cc2ccccc2O1)[O:21][H:20]>>Cc1ccccc1S(=O)[O:10][H:20].O=C(C1Cc2ccccc2O1)[O-:21] 10=20;20,21=21",
"C#C[C@]1(O)C[C@H](C)[NH:10][C@@H]2CCCC[C@H]21.O=[N+]([O-])c1ccc([O:21][H:20])c(C[NH+]2CCOCC2)c1>>C#C[C@]1(O)C[C@H](C)[NH+:10]([H:20])[C@@H]2CCCC[C@H]21.O=[N+]([O-])c1ccc([O-:21])c(C[NH+]2CCOCC2)c1 10=20;20,21=21",
"CCCCC[NH:10]CCCCC.CC[NH+:21](CC(=O)Nc1c(C)cccc1C)[H:20]>>CCCCC[NH+:10](CCCCC)[H:20].CC[NH:21]CC(=O)Nc1c(C)cccc1C 10=20;20,21=21",
"CNCC[NH:10]C.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CNCC[NH+:10](C)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"O=C([C@@H]1O[C@H](Oc2cccc3ccc[nH+]c23)[C@@H](O)[C@H](O)[C@H]1O)[O-:10].c1ccc([NH+:21](CC[NH+]2CCCCC2)[H:20])cc1>>O=C([C@@H]1O[C@H](Oc2cccc3ccc[nH+]c23)[C@@H](O)[C@H](O)[C@H]1O)[O:10][H:20].c1ccc([NH:21]CC[NH+]2CCCCC2)cc1 10=20;20,21=21",
"COc1ccc(/C(c2ccccc2)=[NH+:21]\[H:20])c(OC)c1.c1ccc(-c2nc3ncncc3[n-:10]2)cc1>>COc1ccc(C(c2ccccc2)=[NH:21])c(OC)c1.c1ccc(-c2nc3ncncc3[n:10]2[H:20])cc1 10=20;20,21=21",
"CCOC(=O)N1CC[NH:10]CC1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCOC(=O)N1CC[NH+:10]([H:20])CC1.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"COc1ccc(-c2[nH]c3cncnc3[n+:21]2[H:20])c(OC)c1.Cc1nnc(C)n1[NH-:10]>>COc1ccc(-c2[nH]c3cncnc3[n:21]2)c(OC)c1.Cc1nnc(C)n1[NH:10][H:20] 10=20;20,21=21",
"CCCCCCCCCCCCCCCCCC[N+:21](CC(C)O)(CC(C)O)[H:20].Oc1ccccc1C[N:10]1CCOCC1>>CCCCCCCCCCCCCCCCCC[N:21](CC(C)O)CC(C)O.Oc1ccccc1C[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"N#CC(C#N)=N[N-:10]c1ccc(OC(F)(F)F)cc1.O=[N+]([O-])c1cc(C[N+:21]2([H:20])CCOCC2)c([O-])c2ccccc12>>N#CC(C#N)=N[N:10](c1ccc(OC(F)(F)F)cc1)[H:20].O=[N+]([O-])c1cc(C[N:21]2CCOCC2)c([O-])c2ccccc12 10=20;20,21=21",
"CCCCCSC(c1ccccc1)=[NH:10].CC[N+:21](CC)(CCS(=O)(=O)c1ccc(OC)c(OC)c1OC)[H:20]>>CCCCCSC(c1ccccc1)=[NH+:10][H:20].CC[N:21](CC)CCS(=O)(=O)c1ccc(OC)c(OC)c1OC 10=20;20,21=21",
